US08476261B2
53E) Preparation of 2-[1-(benzylamino)cyclobutyl]ethylamine
LiAlH4 (570 mg, 15.0 mmol) was added portionwise to a solution of [1-(benzoylamino) cyclobutyl]acetamide (687 mg, 3.00 mmol) in THF (30 mL) at room temperature over the course of 30 minutes, and the mixture was heated to reflux for 5 hours. The mixture was cooled in an ice-water bath, aqueous THF and few drops of water were added, and the mixture was allowed to stand overnight. The mixture was filtered through celite and the solution was dried over anhydrous Na2SO4. The solution was concentrated in vacuo to give the title compound as a pale yellow oil (609 mg, 99%). 1H-NMR (400 MHz, CDCl3) δ 1.65-1.80 (2H, m), 1.82 (2H, t, J=7.3 Hz), 1.86-2.02 (4H, m), 2.82 (2H, t, J=7.3 Hz), 3.65 (2H, s), 7.20-7.38 (5H, m).

reactant | LiAlH4 | 15.0 mmol, 570 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | [1-(benzoylamino) cyclobutyl]acetamide | 3.00 mmol, 687 mg | C(C1=CC=CC=C1)(=O)NC1(CCC1)CC(=O)N | C13H16N2O2
reactant | water | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-[1-(benzylamino)cyclobutyl]ethylamine | 609 mg, 99% | C(C1=CC=CC=C1)NC1(CCC1)CCN | C13H20N2
